US07973051B2
iv) N-{[4-ethyl-5-(methylthio)-1,3-thiazol-2-yl]carbamoyl}-5-(2-methoxyethyl)-4-methylthiophene-2-sulfonamide
5-(2-Methoxy-ethyl)-4-methyl-thiophene-2-sulfonic acid amide (0.235 g, 1.00 mmol) was dissolved in 6 mL of abs. acetonitrile and treated successively with phenyl chloroformate (0.157 g, 1.00 eq.) and triethylamine (0.348 mL, 2.5 eq.), and the mixture kept at ambient temperature for 1. h. The above prepared 4-ethyl-5-methylsulfanyl-thiazol-2-ylamine (0.211 g, 1.00 eq. as hydrochloride) was then added, and the mixture heated to 60° C. over night. Cooling, pouring onto crashed ice, twofold extraction with ethyl acetate, washing with brine, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, ethyl acetate/MeOH=95/5) and trituration over heptane yielded 0.296 g of the title compound as light brown solid.

reactant | 5-(2-Methoxy-ethyl)-4-methyl-thiophene-2-sulfonic acid amide | 1.00 mmol, 0.235 g | COCCC1=C(C=C(S1)S(=O)(=O)N)C | C8H13NO3S2
reactant | phenyl chloroformate | 0.157 g, 1.00 eq. | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | 0.348 mL, 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 4-ethyl-5-methylsulfanyl-thiazol-2-ylamine | 0.211 g, 1.00 eq. | C(C)C=1N=C(SC1SC)N | C6H10N2S2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-{[4-ethyl-5-(methylthio)-1,3-thiazol-2-yl]carbamoyl}-5-(2-methoxyethyl)-4-methylthiophene-2-sulfonamide | 0.296 g | C(C)C=1N=C(SC1SC)NC(=O)NS(=O)(=O)C=1SC(=C(C1)C)CCOC | C15H21N3O4S4
